US07777038B2
A dichloromethane solution (12 ml) of 2N boron tribromide was added dropwise at −20° C. to a dichloromethane solution (50 ml) of 1-(biphenyl-4-ylmethyl)-5-methoxy-8-phenyl-3,4-dihydro-1H-quinolin-2-one (5.00 g). After stirring for 4 hours, the reaction mixture was poured into ice water and separated into layers. The organic layer was washed twice with water, washed with a saturated sodium chloride solution, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was recrystallized from a dichloromethane-diisopropyl ether mixed solvent to thereby obtain 5.01 g (yield: quantitative) of 1-(biphenyl-4-ylmethyl)-5-hydroxy-8-phenyl-3,4-dihydro-1H-quinolin-2-one as a white powder.

reactant | boron tribromide | 2N | B(Br)(Br)Br | BBr3
reactant | 1-(biphenyl-4-ylmethyl)-5-methoxy-8-phenyl-3,4-dihydro-1H-quinolin-2-one | 5.00 g | C1(=CC=C(C=C1)CN1C(CCC2=C(C=CC(=C12)C1=CC=CC=C1)OC)=O)C1=CC=CC=C1 | C29H25NO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | 1-(biphenyl-4-ylmethyl)-5-hydroxy-8-phenyl-3,4-dihydro-1H-quinolin-2-one | 5.01 g, yield: quantitative | C1(=CC=C(C=C1)CN1C(CCC2=C(C=CC(=C12)C1=CC=CC=C1)O)=O)C1=CC=CC=C1 | C28H23NO2
